US05250690
4-(1,3-Difluoro-2-propoxy)benzeneamine
3.4 g (15.7 mmol) of p-(1,3-difluoro-2-propoxy)nitrobenzene, 17.7 g (78.5 mmol) of SnCl2 ·2H2O and 35 ml of absolute ethanol were heated together at reflux for 1 hour. The reaction mixture was poured over ice, made basic with 50 percent aqueous NaOH and extracted three times into ether. The combined ether extracts were washed two times with water, dried over MgSO4 and filtered. Hydrogen chloride gas was bubbled into the ether solution causing the above-named aniline to precipitate as the hydrochloride salt. The product was collected as a tan solid by filtration (80 percent of theoretical) and decomposed (d) at 240° C. T1 - % C? % H? % N? -Analysis: -Calc. for C9H11F2NO.HCl: 48.33 5.41 6.26 -Found: 48.42 5.41 6.33 -

reactant | p-(1,3-difluoro-2-propoxy)nitrobenzene | 15.7 mmol, 3.4 g | FCC(CF)OC1=CC=C(C=C1)[N+](=O)[O-] | C9H9F2NO3
reactant | SnCl2 | 78.5 mmol, 17.7 g | Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-(1,3-Difluoro-2-propoxy)benzeneamine | FCC(CF)OC1=CC=C(C=C1)N | C9H11F2NO
